US06720320B2
(S)-α-(3-(3-(4-(3,4-dichlorophenyl)piperidino)-2-hydroxypropyloxy)benzylidene)-γ-butyrolactone hydrochloride
In the same manner as in Example 425, the title compound was synthesized from (S)-α-(3-glycidyloxybenzylidene)-γ-butyrolactone and 4-(3,4-dichlorophenyl)piperidine, melting point 147-149° C.

reactant | (S)-α-(3-glycidyloxybenzylidene)-γ-butyrolactone | C([C@@H]1CO1)OC=1C=C(C=C2C(=O)OCC2)C=CC1 | C14H14O4
reactant | 4-(3,4-dichlorophenyl)piperidine | ClC=1C=C(C=CC1Cl)C1CCNCC1 | C11H13Cl2N
product | (S)-α-(3-(3-(4-(3,4-dichlorophenyl)piperidino)-2-hydroxypropyloxy)benzylidene)-γ-butyrolactone hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1CCN(CC1)C[C@@H](COC=1C=C(C=C2C(=O)OCC2)C=CC1)O | InChI=1S/C25H27Cl2NO4.ClH/c26-23-5-4-19(14-24(23)27)18-6-9-28(10-7-18)15-21(29)16-32-22-3-1-2-17(13-22)12-20-8-11-31-25(20)30;/h1-5,12-14,18,21,29H,6-11,15-16H2;1H/t21-;/m0./s1
